US04487764
(g) Z-Lys(Boc)-Lys(Boc)-Tyr(But)-Phe-Arg-OBut
0.26 ml of N-ethylmorpholine and 440 mg of DCC are added at 0° C. to a solution of 1.95 g (2 mmoles) of Z-Lys(Boc)-Lys(Boc)-Tyr(But)-Phe-OH, 606 mg (2 mmoles) of H-Arg-OBut.HCl and 326 mg (2 mmoles) of HOObt in 5 ml of dimethylacetamide. The mixture is first stirred for 2 hours at 0° C. and is left to stand overnight at room temperature. On the following day the precipitate is filtered off and the filtrate is concentrated. Yield 2.5 g. The substance is purified by being recrystallized twice from ethyl acetate. Yield 1.7 g, melting point 134°-137°, [α]D26 =-26.4° (c=1, methanol).

reactant | N-ethylmorpholine | 0.26 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 440 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Z-Lys(Boc)-Lys(Boc)-Tyr(But)-Phe-OH | 2 mmoles, 1.95 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C52H74N6O12
reactant | H-Arg-OBut.HCl | 2 mmoles, 606 mg | N[C@@H](CCCNC(N)=N)C(=O)OC(C)(C)C.Cl
reactant | HOObt | 2 mmoles, 326 mg | C1=CC=C2C(=C1)C(=O)N(N=N2)O | C7H5N3O2
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | Z-Lys(Boc)-Lys(Boc)-Tyr(But)-Phe-Arg-OBut | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C62H94N10O13
